Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
nystatin / Gadolinium-Containing Contrast Media / shellfish 
derived / iodine / metronidazole
 
Attending: ___.
 
Chief Complaint:
concern for mast cell activation syndrome 
 
Major Surgical or Invasive Procedure:
Lumbar puncture (___)

 
History of Present Illness:
This is a ___ female with h/o carcinoid tumor of the
right lung s/p lobectomy, who presents with diffuse burning 
nerve
pain, poor sensation, flushing, abnormal vaginal bleeding and
significant concern for mast cell activation syndrome which she
feels will be responsive to IVIG (previously administered for
presumed autoimmune autonomic neuropathy as below). She is seen
in the room with her fiancé who is a retired ___ medicine
___. History is limited as patient's thought process is
very circumstantial and tangential.

Per patient, ___ years ago she was initiated on Nystatin for 
oral
thrush after which she began having diffuse nerve pain, rash,
vaginal bleeding, chills, tachycardia and urinary/GI symptoms.
This improved transiently with antihistamines. She brought this
to the attention of her primary care provider who, after finding
no clear underlying etiology for her prolonged symptoms, 
referred
her for psychiatric hospitalization due to patient's request for
closer monitoring of her symptoms. She was hosptalized on
multiple occasions and initiated on antipsychotics for presumed
delisional disorder. She was also seen by neurology during this
time who initiated weekly IVIG for presumed autoimmune autonomic
neuropathy though testing was not consistent with this 
diagnosis.
She felt improved on this and says her symptoms went into
remission for about a year.

She notes that approximately 2 months ago, around when she was
prescribed flexeril for sleep, she experienced recurrence of
symptoms, with facial flushing, diffuse burning pain,
intermittent swelling of her hands, anhidrosis, poor bowel and
bladder sensation, urinary retention, and constipation. She also
feels intermittently confused. She was seen at ___ recently (discharge date: ___ for similar
complaints. At ___, extensive workup for mast cell 
activation
syndrome was initiated, with several tests still pending. She 
was
seen by allergy/immunology who noted low suspicion for mast cell
activation syndrome given atypical presentation and multiple
negative tryptase tests. However, given inability to completely
exclude diagnosis and patient insistence on treatment,
allergy/immunology recommended antihistamine regimen along with
possible therapeutic trial of cromolyn. Per review of ___
records, primary team discussed possible contribution of
anticholinergic medications to presentation and psychiatry
proposed possibility of somatic symptom disorder; however 
patient
was resistent to these proposed etiologies to her illness and
requested transfer to ___ ED, which was done. She was seen in
the ED yesterday, discharged home, and represented today with 
the
same symptoms. Of note, over the past ___ weeks patient has
stopped taking most of her prescribed medications due to concern
that they are contributing to her mast cell activation syndrome.
She stopped taking her psychiatric medications on ___ per ___
records.

In the ED, vitals were: T: 98.4 HR 96 BP 140/84 RR 16 99% on RA

Exam notable for disheveled appearance, ruddy complexion, slight
right eye ptosis, tachycardia, neurologic exam without focal
deficits. Intermittent AMS with disorientation.

Labs notable for mild leukocytosis to 11.1 with Eos 0.8 on diff.
Moderate blood on UA. 

Studies:
CT Head w/o contrast: no evidence of acute intracranial
abnormality
KUB: Moderate amount of stool in the right colon No evidence for
bowel obstruction or free intraperitoneal air.

They were given: 
- diphenhydramine 25 mg
- Gabapentin 300 mg
- Lorazepam 2 mg
- 1 L IVF

Upon arrival to the floor, she is alert and oriented. However,
she is tangential and circumferential in her thought process. 
She
reiterates the above history and notes that she is concerned
regarding mast cell activation syndrome and her vaginal 
bleeding.
She says that she does not have regular periods. Of note, she
does state she recently modified her home hormone regimen. She
requests IVIG, an LP, steroids. She shows a video *she filmed of
herself* 2 days ago after taking flexeril with eyes rolling back
and automatisms with lip smacking and moaning. 

Medical History: 

- She has a history of RUL carcinoid lung cancer in ___ s/p
lobectomy, with some nodules that have been followed and are
stable. She also reports recent normal chromogranin A and 
5-HIAA.
- Prior presumed autoimmune autonomic neuropathy initiated on
IVIG with testing negative
- Delusional disorder previously on cymbalta and risperidone,
requiring numerous psychiatric hospitalizations

ROS: pertinent positives and negatives per HPI

 
Past Medical History:
- She has a history of RUL carcinoid lung cancer in ___ s/p
lobectomy, with some nodules that have been followed and are
stable. She also reports recent normal chromogranin A and 
5-HIAA.
- Prior presumed autoimmune autonomic neuropathy initiated on
IVIG with testing negative
- Delusional disorder previously on cymbalta and risperidone,
requiring numerous psychiatric hospitalizations
 
Social History:
___
Family History:
Patient denies family members with similar symptoms. Per
chart review, mother with schizophrenia and father with bipolar.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
___ 1752 Temp: 98.1 PO BP: 135/83 HR: 127 RR: 19 O2 sat:
100% O2 delivery: RA 
GEN: Disheveled appearance with matted hair
HEENT: MMM, no scleral icterus or conjunctival injection
Cardiac: tachycardic, +S1/S2, no m/r/g
Respiratory: CTAB, no respiratory distress
Abd: +BS, s/nt/nd
Ext: no clubbing, cyanosis, edema
Skin: slight erythema in malar distribution over face
Neuro: AOx3, able to say days of the week backwards, no gross
focal deficits
Psych: anxious mood. flat affect, not congruent with mood.
circumstantial and tangential thought process. fixated on
possible mast cell activation syndrome.

24 HR Data (last updated ___ @ 857)
    Temp: 97.5 (Tm 98.1), BP: 100/66 (100-123/66-85), HR: 83
(83-109), RR: 16 (___), O2 sat: 96% (96-100), O2 delivery: Ra  

GEN: Disheveled appearance with matted hair
HEENT: NC/AT
Cardiac: tachycardic, +S1/S2, no m/r/g
Respiratory: CTAB, no respiratory distress
Abd: +BS, s/nt/nd
Ext: no clubbing, cyanosis, edema
Skin: slight erythema in malar distribution over face, slight
erythematous rash on forearms waxes and wanes over time
Neuro: grossly normal
Psych: anxious mood. perseverating on inflammatory attacks and
autonomic dysfunction
 
Pertinent Results:
ADMISSION LABS
=================
___ 01:20AM BLOOD WBC-10.8* RBC-4.13 Hgb-12.8 Hct-39.1 
MCV-95 MCH-31.0 MCHC-32.7 RDW-11.0 RDWSD-38.2 Plt ___
___ 01:20AM BLOOD Neuts-61.1 ___ Monos-8.2 Eos-0.5* 
Baso-0.2 Im ___ AbsNeut-6.60* AbsLymp-3.20 AbsMono-0.89* 
AbsEos-0.05 AbsBaso-0.02
___ 04:59PM BLOOD ___ PTT-24.1* ___
___ 01:20AM BLOOD Glucose-78 UreaN-10 Creat-0.9 Na-139 
K-3.9 Cl-99 HCO3-27 AnGap-13
___ 01:20AM BLOOD Calcium-9.6 Phos-3.0 Mg-2.0
___ 02:52PM BLOOD ALT-22 AST-30 AlkPhos-76 TotBili-0.3
___ 02:52PM BLOOD cTropnT-<0.01
___ 02:52PM BLOOD Lipase-34
___ 02:52PM BLOOD ___ 07:15PM BLOOD calTIBC-363 Ferritn-137 TRF-279
___ 02:52PM BLOOD TSH-2.5
___ 02:52PM BLOOD HCG-<5
___ 02:52PM BLOOD RheuFac-<10
___ 12:50PM BLOOD CRP-3.1
___ 01:20AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 02:52PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:34AM BLOOD HIV Ab-NEG
___ 02:52PM BLOOD Lyme Ab-NEG
___ 04:53PM BLOOD Trep Ab-POS*
___ 03:01PM BLOOD Lactate-1.5

PERTINENT STUDIES
=====================
LP ___ 04:56PM CEREBROSPINAL FLUID (CSF) TNC-0 RBC-1 Polys-0 
___ ___ 04:56PM CEREBROSPINAL FLUID (CSF) TotProt-16 Glucose-70
CSF VDRL NONREACTIVE

CT HEAD NON CONTRAST ___
FINDINGS:  
  
There is no evidence of infarction, hemorrhage, edema, or mass.  
The 
ventricles and sulci are normal in size and configuration. 
  
There is no evidence of fracture.  The visualized portion of the 
paranasal 
sinuses, mastoid air cells, and middle ear cavities are clear.  
The visualized 
portion of the orbits are unremarkable. 
  
IMPRESSION:  
  
No evidence of acute intracranial abnormality. 

ABDOMINAL XRAY ___
FINDINGS:  
  
Moderate amount of stool seen in the right colon.  No dilated 
loops of small 
bowel, differential air-fluid levels, or free intraperitoneal 
air identified.  
Scattered calcified phleboliths in the pelvis.  No concerning 
osseous 
abnormality. 
  
IMPRESSION:  
  
Moderate amount of stool in the right colon.  No evidence for 
bowel 
obstruction or free intraperitoneal air. 

DISCHARGE LABS
==================
___ 05:34AM BLOOD WBC-8.9 RBC-4.40 Hgb-13.7 Hct-40.5 MCV-92 
MCH-31.1 MCHC-33.8 RDW-11.3 RDWSD-37.9 Plt ___
 
Brief Hospital Course:
SUMMARY STATEMENT:
====================
Pt is a ___ with a history of carcinoid tumor of the R lung 
s/p lobecotomy who presents with a recurrent constellation of 
symptoms including diffuse burning pain, painful rashes, severe 
constipation, urinary retention, facial flushing and concern for 
autonomic dysfunction.

TRANSITIONAL ISSUES:
====================
[] Close ongoing follow-up with ___ psychiatry Dr. ___ 
___ on ___, ___ at 2:00 pm.

[] Patient should make an appointment to see her therapist Dr. 
___ at ___.

[] Will follow up with Dr. ___ coordination of multiple 
complex 

[] Continue taking Risperdal and Ativan for insomnia until 
follow up with Dr. ___.

[ ] Consider establishment in ___ clinic as an outpatient.

ACTIVE ISSUES:
==============
# Tachycardia
# Anticholinergic symptoms
# Lancinating pains
Patient hadrecent admission to ___ ___ for the same symptoms 
including diffuse burning pain, painful rashes, severe 
constipation, urinary retention, facial flushing. She was seen 
by allergy and neurology and ultimately it was felt that
ongoing delusional disorder was exacerbating her symptoms. 
Allergy did not think that she met criteria for mast cell 
disease and follow up was arranged with Dr. ___ in mast 
cell clinic. She was given prednisone during her course but the 
team felt that there was no indication for further steroids. She 
was also given
cetirizine, Benadryl, montelukast, and cromolyn. She refused to 
be seen by psychiatry. These symptoms have been episodically 
presented since ___ when she was exposed to nystatin for 
oral candidiasis. Tryptase was rechecked here and once again 
within normal limits. The neurology team was consulted and a 
panel of tests were sent including B12, B6, hemoglobin A1c, TSH, 
Lyme, Sjogren's antibodies, rheumatoid factor, urine 
porphobilinogen which were all normal. Due to patient concern 
about positive syphilis antibody test at ___ office, treponemal 
antibody was sent which returned positive. RPR was negative, but 
due to concern for possible neurosyphilis as the cause of her 
symptoms she received an LP. CSF VDRL was negative. During this 
admission, she had a number of self-described "inflammatory 
attacks" that involved feelings of chest pain, flushing, burning 
pains all over, and which she described as not being able to 
take a full breath of air. During these episodes she remained 
vitally stable apart from her tachycardia which is chronic. Labs 
drawn throughout this admission were otherwise unremarkable. She 
also complained of constipation and urinary retention. She was 
given bowel regimen and post void residuals were measured by 
bladder scan. She was continued on several home medications for 
her allergic/immunologic symptoms including antihistamines.

# Encephalopathy
# Mania
Patient was noted to be confused in the emergency department and 
showing signs of mania including lack of sleep and perseveration 
on her symptoms. This was thought possibly secondary to 
receiving Ativan in the emergency department during morning 
hours. Her mood symptoms and perseveration improved during the 
course of the hospitalization and it was determined that she 
would be safe to be discharged home with close psychiatric 
follow-up.

# Insomnia
The patient endorsed not sleeping for up to 2 weeks. Tried 
giving Seroquel and haloperidol with Ativan without success. 
Patient did respond to Risperdal and was discharged on 1.5 mg 
nightly and 0.5 mg Ativan nightly, with 0.5 mg Risperdal bid prn 
for insomnia/distressing symptoms per psychiatry 
recommendations.

#Abnormal uterine bleeding 
Patient noting abnormal uterine bleeding with patient denying 
ongoing menstruation. Pt endorsed ongoing symptoms but never 
witnessed while in house

CONTACT:
Dr. ___ (fiance) - ___
CODE STATUS: full presumed
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Gabapentin 300 mg PO BID 

 
Discharge Medications:
1.  Cetirizine 10 mg PO BID 
RX *cetirizine 10 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
2.  LORazepam 0.5 mg PO QHS 
RX *lorazepam 0.5 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 
3.  Montelukast 10 mg PO DAILY  
4.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 1 dose by mouth once a 
day Refills:*0 
5.  RisperiDONE 1.5 mg PO QHS 
RX *risperidone 0.5 mg 3 tablet(s) by mouth at bedtime Disp #*90 
Tablet Refills:*0 
6.  RisperiDONE 0.5 mg PO BID:PRN insomnia  
7.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
8.  Gabapentin 300 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Insomnia
Anticholinergic symptoms
Acute mania

SECONDARY DIAGNOSES:
Possible autoimmune autonomic dysfunction
History of carcinoid tumor

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you complained of 
burning pains and inflammatory attacks.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- In the hospital, no unifying cause for your symptoms was 
identified.  You did have a positive treponemal antibody for 
syphilis, so you received a lumbar puncture to rule out 
neurosyphilis as the cause of your symptoms.  These tests ruled 
out syphilis as the cause of your symptoms. 

- You had several other tests to rule out mast cell activation 
syndrome and other rare diseases as the cause of your symptoms. 
Your inflammatory markers were normal.

- You were started on a medication called risperidone to help 
with your sleep.

WHAT SHOULD I DO WHEN I GO HOME?
- Please take all of your medications exactly as prescribed and 
follow up with your outpatient providers.

- Please stop pyridostigmine in favor of more gentle medications 
like senna, bisacodyl, and miralax.

- You have a psychiatry appointment with Dr. ___ on 
___, ___ at 2:00 pm.

- Please make an appointment to see your therapist Dr. ___ at 
___.

- Please follow up as soon as possible with your primary care 
physician ___.

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___